US07504410B2
A solution of N-(3-nitrophenyl)-urea (1.0 g, 5-5 mmol) and methanol (40 mL) was treated with 10% Pd/C (250 mg) and placed under H2 (45 psi) for 2 h. The mixture was then filtered through celite and concentrated to afford N-(3-aminophenyl)-urea (828 mg, 5.5 mmol).

reactant | N-(3-nitrophenyl)-urea | 5-5 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)N | C7H7N3O3
catalyst | Pd/C | 250 mg | [Pd] | Pd
solvent | methanol | 40 mL | CO | CH4O
product | N-(3-aminophenyl)-urea | 5.5 mmol, 828 mg | NC=1C=C(C=CC1)NC(=O)N | C7H9N3O
